US06458814B1
a) 2-[(3-Hydroxy-1-butyl)amino]pyridine-N-oxide
A mixture of 4-amino-1-butanol (2.0 mL, 21.7 mmole), 2-chloropyridine-N-oxide hydrochloride (3.00 g, g, 18.0 mmole), NaHCO3 (7.56 g, 90.0 mmole), and tert-amyl alcohol (22 mL) was heated at reflux. After 24 hr, the mixture was cooled and filtered, then the filtrate was concentrated under reduced pressure. Silica gel chromatography (10% MeOH/CHCl3) gave the title compound (2.08 g, 63%) as a yellow solid: MS (ES) m/e 183 (M+H)+.

reactant | 4-amino-1-butanol | 21.7 mmole, 2.0 mL | NCCCCO | C4H11NO
reactant | 2-chloropyridine-N-oxide hydrochloride | 18.0 mmole, 3.00 g | Cl.ClC1=[N+](C=CC=C1)[O-]
reactant | NaHCO3 | 90.0 mmole, 7.56 g | C(=O)(O)[O-].[Na+]
reactant | tert-amyl alcohol | 22 mL | C(C)(C)(CC)O | C5H12O
product | 2-[(3-Hydroxy-1-butyl)amino]pyridine-N-oxide | 2.08 g, 63% | OC(CCNC1=[N+](C=CC=C1)[O-])C | C9H14N2O2
